US08871967B2
Cyclopropylmethyl Hexanoate
Prepared from hexanoic acid and cyclopropanemethanol according to the ester preparation method A described above.

reactant | hexanoic acid | C(CCCCC)(=O)O | C6H12O2
reactant | cyclopropanemethanol | C1(CC1)CO | C4H8O
product | Cyclopropylmethyl Hexanoate | C(CCCCC)(=O)OCC1CC1 | C10H18O2
